US09024093B2
Synthesis of N-Boc-5-bromoindole (S10)
To 5-bromoindole (196 mg, 1.00 mmol, 1.00 equiv) in acetonitrile (2.0 mL) at 23° C. was added di-tert-butyl dicarbonate (276 mL, 1.20 mmol, 1.20 equiv) and 4-dimethylaminopyridine (12.0 mg, 0.100 mmol, 10.0 mol %). After stiffing for 30 min at 23° C., the reaction mixture was concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with hexanes/EtOAc 30:1 (v/v) to afford 293 mg of the title compound as a colorless solid (99% yield).

reactant | 5-bromoindole | 1.00 mmol, 196 mg, 1.00 equiv | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | di-tert-butyl dicarbonate | 1.20 mmol, 276 mL, 1.20 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.100 mmol, 12.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-Boc-5-bromoindole | 293 mg, 99% yield | C(=O)(OC(C)(C)C)N1C=CC2=CC(=CC=C12)Br | C13H14BrNO2
